US04471117
To a stirred mixture of 45 parts of trifluoroacetic acid and 2 parts of 3,4-dihydro-2H-pyrimido[2,1-b]benzothiazol-7-amine are added portionwise, during a 4 hours-period, 3 parts of sodium borohydride at 30°-40° C. while nitrogen gas is introduced. The reaction mixture is poured onto ice-water and the whole is alkalized with ammonium hydroxide. The product is extracted with methylbenzene. The extract is washed with water, dried, filtered and evaporated. The residue is crystallized from 8 parts of acetonitrile, yielding 0.55 parts of 3,4-dihydro-N-(2,2,2-trifluoroethyl)-2H-pyrimido[2,1-b]benzothiazol-7-amine; mp. 186.7° C.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3,4-dihydro-2H-pyrimido[2,1-b]benzothiazol-7-amine | N=1CCCN2C1SC1=C2C=C(C=C1)N | C10H11N3S
reactant | sodium borohydride | [BH4-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 3,4-dihydro-N-(2,2,2-trifluoroethyl)-2H-pyrimido[2,1-b]benzothiazol-7-amine | FC(CNC=1C=CC2=C(N3C(S2)=NCCC3)C1)(F)F | C12H12F3N3S
